US05700809
4-(2-[Furan-2-yl]ethyl)-1,2,3,5-tetrahydropyridine
A cooled (0° C.) solution of 1-benzyl-4-(2-[furan-2-yl]ethyl)-1,2,3,6-tetrahydropyridine (1.8 g, 6.8 mmol) in anhydrous dichloromethane (20 ml) was treated with 1-chloroethylchloroformate (0.95 ml, 8.8 mmol) dropwise. The mixture was stirred for 1 hr at 0° C. The solvent was evaporated and the residue dissolved in methanol (60 ml). This solution was heated at reflux for one hour whereupon the solvent was evaporated. The residue was partitioned between dichloromethane and saturated aqueous potassium carbonate solution. The organic phase was separated, dried (Na2 SO4) and evaporated to give the title compound (867 mg, 72%) as a colourless oil; δH (DMSO-d6) 1.84-1.96 (2H, m, tetrahydropyridinyl CH2), 2.16-2.30 (2H, m, CH2), 2.64-2.80 (4H, m, tetrahydropyridinyl CH2 and CH2), 3.06-3.10 (2H, m, tetrahydropyridinyl CH2), 5.40-5.46 (1H, m, tetrahydropyridinyl 5-H), 6.06-6.12 (1H, m, furanyl H), 6.32-6.38 (1H, m, furanyl H), and 7.48-7.56 (1H, m, furanyl H).

reactant | 1-benzyl-4-(2-[furan-2-yl]ethyl)-1,2,3,6-tetrahydropyridine | 6.8 mmol, 1.8 g | C(C1=CC=CC=C1)N1CCC(=CC1)CCC=1OC=CC1 | C18H21NO
reactant | 1-chloroethylchloroformate | 8.8 mmol, 0.95 ml | ClC(C)OC(=O)Cl | C3H4Cl2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(2-[Furan-2-yl]ethyl)-1,2,3,5-tetrahydropyridine | 867 mg, 72% | O1C(=CC=C1)CCC1CCNCC1 | C11H17NO
